US05576343
Ethyl [2-[2-(5-Amidino-2-benzofuranyl)ethyl]-5-[((3S)-3-pyrrolidinyl)oxy]phenyl]oxyacetate Dihydrochloride
0.65 g of [2-[2-(5-amidino-2-benzofuranyl)ethyl]-5-[((3S)-3-pyrrolidinyl)oxy]phenyl]oxyacetic acid dihydrochloride was dissolved in 50 ml of ethanol. 0.2 ml of thionyl chloride was added to the above solution with ice cooling, and the resulting mixture was stirred at room temperature for 18 hours. Thereafter, the resulting reaction solution was concentrated to dryness, dissolved once in water, and then concentrated again to dryness. In this way, 0.65 g of the title compound was obtained in a solid form.

reactant | [2-[2-(5-amidino-2-benzofuranyl)ethyl]-5-[((3S)-3-pyrrolidinyl)oxy]phenyl]oxyacetic acid dihydrochloride | 0.65 g | Cl.Cl.C(N)(=N)C=1C=CC2=C(C=C(O2)CCC2=C(C=C(C=C2)O[C@@H]2CNCC2)OCC(=O)O)C1
reactant | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl [2-[2-(5-Amidino-2-benzofuranyl)ethyl]-5-[((3S)-3-pyrrolidinyl)oxy]phenyl]oxyacetate Dihydrochloride | 0.65 g | Cl.Cl.C(N)(=N)C=1C=CC2=C(C=C(O2)CCC2=C(C=C(C=C2)O[C@@H]2CNCC2)OCC(=O)OCC)C1 | InChI=1S/C25H29N3O5.2ClH/c1-2-30-24(29)15-31-23-13-20(32-21-9-10-28-14-21)7-4-16(23)3-6-19-12-18-11-17(25(26)27)5-8-22(18)33-19;;/h4-5,7-8,11-13,21,28H,2-3,6,9-10,14-15H2,1H3,(H3,26,27);2*1H/t21-;;/m0../s1
